US04545809
15.5 g of 3-(N-methylamino)-5-t-butylpyrazole as prepared in Reference Example was dissolved in 50 ml of dioxane, and 11.3 g of methyl chloroformate was added to the solution. The mixture was then allowed to react at 100° C. for 5 hours. After the reaction was completed, the solvent was distilled off and the residue was dissolved in an alcohol. The solution was added in 200 ml of a 5% aqueous solution of sodium hydroxide and the mixture was stirred at room temperature for 30 minutes. After neutralization, the mixture was extracted with methylene chloride, and the methylene chloride layer was dried over anhydrous sodium sulfate, followed by distilling off the methylene chloride. The residue was recrystallized from a mixture of toluene and hexane, whereby 4 g of methyl N-(5-t-butyl-3-pyrazolyl)-N-methylcarbamate was obtained.

reactant | 3-(N-methylamino)-5-t-butylpyrazole | 15.5 g | CNC1=NNC(=C1)C(C)(C)C | C8H15N3
reactant | methyl chloroformate | 11.3 g | ClC(=O)OC | C2H3ClO2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | methyl N-(5-t-butyl-3-pyrazolyl)-N-methylcarbamate | 4 g | C(C)(C)(C)C1=CC(=NN1)N(C(OC)=O)C | C10H17N3O2
